US07943609B2
A 100-mL, round-bottomed flask, under an atmosphere of N2, was charged with sodium hydride (60% oil dispersion, 72 mg, 1.78 mmol). The sodium hydride was washed with 3 portions of hexanes to remove the oil and then 20 mL of anhydrous THF was added. The reaction mixture was cooled to 0° C. and (11S)-11-hydroxymethyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (413 mg, 1.62 mmol) was added. After stirring for 75 minutes, 4-fluorobenzyl bromide (215 μL, 1.78 mmol) was added. The reaction was allowed to warm to ambient temperature overnight. After 20 hours the reaction mixture was treated with 20 mL of saturated NaHCO3 solution and 20 mL of ethyl acetate and the layers were separated. The organic portion was washed with H2O and brine, dried over Na2SO4, filtered, and concentrated under reduce pressure to give (11S)-11-{[(4-fluorobenzyl)oxy]methyl}-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline (580 mg) as a light-yellow, glassy solid.

reactant | sodium hydride | 1.78 mmol, 72 mg | [H-].[Na+]
reactant | (11S)-11-hydroxymethyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 1.62 mmol, 413 mg | OC[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C14H13N3O2
reactant | 4-fluorobenzyl bromide | 1.78 mmol, 215 μL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (11S)-11-{[(4-fluorobenzyl)oxy]methyl}-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinoline | 580 mg | FC1=CC=C(COC[C@H]2COCC=3N2C2=C(C=NC4=CC=CC=C24)N3)C=C1 | C21H18FN3O2
